US07560219B2
1-Chloro-4-dodecyloxythioxanthone was prepared as follows. A solution of 1-chloro-4-hydroxythioxanthone (14.0 g, 0.05 mol), K2CO3 (8.0 g, 0.06 mol) in acetone (250 mL) was stirred and refluxed for 10 min. Bromododecane (20.0 g, 0.08 mol) was added and the resulting mixture was stirred for 24 h under reflux. The reaction was then cooled to room temperature and quenched with water (500 mL). The obtained solid was filtered, washed with water, purified by recrystallized from isopropanol to give the 1-chloro-4-dodecyloxythioxanthone (14.3 g, 62%) with mp 79-80° C. The identity of this compound was shown by 1H NMR to have the following structure:

reactant | 1-chloro-4-hydroxythioxanthone | 0.05 mol, 14.0 g | ClC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H7ClO2S
reactant | K2CO3 | 0.06 mol, 8.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Bromododecane | 0.08 mol, 20.0 g | BrCCCCCCCCCCCC | C12H25Br
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 1-chloro-4-dodecyloxythioxanthone | 14.3 g, 62% | ClC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)OCCCCCCCCCCCC | C25H31ClO2S
